US07153874B2
Step 3: [1-(4-Fluoro-phenyl)-1H-imidazol-4-yl]-methanol
1-(4-Fluoro-phenyl)-1H-imidazole-4-carboxylic acid (18 g, 87 mmol) was dissolved in 90 mL dry THF. Borane tetrahydrofuran complex (174 mL, 1M in THF, 174 mmol) was added dropwise. The reaction was refluxed for 2 h and stirred at RT overnight. The reaction mixture was cooled to 0° C. and 100 mL methanol were added dropwise. The solvents were evaporated. The residue was taken up in 100 mL 2N HCl and refluxed for 2 h. The reaction mixture was then cooled to 0° C. and 120 mL 2N sodium hydroxide solution were added dropwise. The solid material was filtered off and dried at 50° C. and 15 mbar. The desired compound was obtained as a white solid (13 g, 78%), MS: m/e=193.2 (M+H)+.

reactant | 1-(4-Fluoro-phenyl)-1H-imidazole-4-carboxylic acid | 87 mmol, 18 g | FC1=CC=C(C=C1)N1C=NC(=C1)C(=O)O | C10H7FN2O2
reactant | Borane tetrahydrofuran | 174 mmol, 1M, 174 mL | O1CCCC1.B
reactant | methanol | 100 mL | CO | CH4O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | [1-(4-Fluoro-phenyl)-1H-imidazol-4-yl]-methanol | FC1=CC=C(C=C1)N1C=NC(=C1)CO | C10H9FN2O
